### PR TITLE
Adapt to Coq 8.7.

### PR DESCRIPTION
**Pull request by silene**
Most of the changes are due to Coq 8.7's definition of IZR and its use
to represent literals. The intricacy of the changes ensures that the
library compiles with Coq 8.5, 8.6, and 8.7.

"Require Interval.BigNumsCompat" deals with the removal of BigZ from
standard Coq; this workaround requires Interval 3.3.0 though. Another
possibility would be to require at least Coq 8.6 and use "From Bignums
Require BigZ" instead.

### CODE REVIEW

File: arcsinh.v [hunk 1]
```diff
@@ -39,9 +39,12 @@ Local Ltac lt0 :=
 Definition arcsinh x := ln (x + sqrt (x ^ 2 + 1)).
 
 Lemma arcsinh_sinh : forall x, arcsinh (sinh x) = x.
+Proof.
 intros x; unfold sinh, arcsinh.
-pattern 1 at 5; rewrite <- exp_0, <- (Rminus_eq_0 x); unfold Rminus.
+change 2 with (IZR 2).
+rewrite <- exp_0, <- (Rminus_eq_0 x); unfold Rminus.
 rewrite exp_plus.
```
Comment (ybertot) [inline arcsinh.v:46]: I don't understand.  In my own attempt, it is enough to remove the pattern command. there is no need for
the change tactic.

After a few moments thinking I understand that you wish to preserve compilation for a variety of Coq versions.

I prefer not to.  This goes agains long term readability.

File: generalities.v [hunk 2]
```diff
@@ -390,11 +390,11 @@ rewrite Rabs_mult; apply Rmult_le_0_lt_compat; cycle 3.
     now apply Rabs_pos.
   now apply Rabs_pos.
 replace (f x / g x) with ((f x / g x - 1) + 1) by ring.
-apply Rle_lt_trans with (1 := Rabs_triang _ _); apply Rplus_lt_compat; cycle 1.
```
Comment (ybertot) [inline generalities.v:393]: I prefer prefixing with "change 3 with (1 + 2)", which is the real intent here.

File: arcsinh.v (hunk 1 above)
Comment (silene) [reply arcsinh.v:46]: It depends what your goal is. As far as I am concerned, I don't want to have to maintain two separate sets of libraries, one for Coq 8.6 and one for Coq 8.7. If you are ready to maintain two libraries, then most of the changes of this pull request are indeed useless. In fact, you can now simplify several of your proofs, since properties like `assert (num423 : 423 = IZR 423)` are now definitionally true.

**Comment by ybertot** [comment]
Yes, you understood me.  I wish to display the improvements in proof 
style that are brought by the new kind of real litterals.  I will use 
your modifications as guidelines but will try to simplify the proofs.  
This may suggest a few improvements to the way the new litterals are 
integrated in the development.

Yves

**Comment by ybertot** [comment]
Thanks for all the suggestions.  As mentioned earlier, I will prefer to modify the scripts in the direction of better readability, sacrificing backward compatibility, and maintaining two different versions for coq-8.6 and coq-8.7.
